US08124766B2
A mixture of 1-ethyl-5-trifluoromethoxy-1H-indole-2-carboxylic acid (65 mg, 0.24 mmol), CH2Cl2 (5 mL), and catalytic amount of DMF was stirred under Ar, and oxalyl chloride (2M in dichloromethane, 250 μL, 0.5 mmol) was dripped into the mixture over 5 min. The mixture was stirred at room temperature for 1.0 hr and then concentrated to dryness. Benzene was added and the solution was evaporated to dryness again. The residue was re-dissolved in 5 mL of CH2Cl2 and dripped, under Ar, into a solution of N-(2-methoxy-ethyl)-N-methyl-pyridine-2,5-diamine (43.0 mg, 0.24 mmol), and triethylamine (0.52 mg, 0.5 mmol) in 5 mL of CH2Cl2. The reaction was stirred at room temperature for 0.5 hr then concentrated and the residue was taken up in 50 mL of EtOAc and washed with 50 mL of saturated ammonium chloride, brine and dried with anhydrous sodium sulfate. The solvent was removed, and the crude product was purified by flash chromatography (hexanes:EtOAc) followed by conversion to HCl salt with 1N HCl in ether to afford the product, 1-ethyl-5-trifluoromethoxy-1H-indole-2-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide hydrochloride, as a pink solid (44 mg, 42% yield). LCMS for C21H23F3N4O3 calcd. (m/e) 436, observed 437 (M+H).

reactant | 1-ethyl-5-trifluoromethoxy-1H-indole-2-carboxylic acid | 0.24 mmol, 65 mg | C(C)N1C(=CC2=CC(=CC=C12)OC(F)(F)F)C(=O)O | C12H10F3NO3
reactant | oxalyl chloride | 0.5 mmol, 2M, 250 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(2-methoxy-ethyl)-N-methyl-pyridine-2,5-diamine | 0.24 mmol, 43.0 mg | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
reactant | triethylamine | 0.5 mmol, 0.52 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-ethyl-5-trifluoromethoxy-1H-indole-2-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide hydrochloride | Cl.COCCN(C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)OC(F)(F)F)CC)C | InChI=1S/C21H23F3N4O3.ClH/c1-4-28-17-7-6-16(31-21(22,23)24)11-14(17)12-18(28)20(29)26-15-5-8-19(25-13-15)27(2)9-10-30-3;/h5-8,11-13H,4,9-10H2,1-3H3,(H,26,29);1H
